US04080330
2.7 G of N-chloracetyl-3-phenylindoline was added with vigorous stirring to a solution of 0.77 g of chlorine in 10 ml of glacial acetic acid which had been cooled to 15° C. The temperature of the mixture which rose to 33° C was cooled down to room temperature and the mixture stirred for a further hour. The resulting solution was poured into 100 ml of cold water. The liquid was decanted from the gummy residue, which was subsequently crystallized from ethanol to give 1.9 g of crystalline N-chloracetyl-3-phenyl-5-chloroindoline having a melting point of 107°-9° C.

reactant | N-chloracetyl-3-phenylindoline | ClCC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14ClNO
reactant | chlorine | 0.77 g | ClCl | Cl2
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-chloracetyl-3-phenyl-5-chloroindoline | 1.9 g | ClCC(=O)N1CC(C2=CC(=CC=C12)Cl)C1=CC=CC=C1 | C16H13Cl2NO
